US07981903B2
N-[2-methyl-4-(methyloxy)phenyl]acetamide (1.95 g, 10.88 mmol) was dissolved in TFA (20 mL) and cooled to 0° C. in an ice bath. Potassium nitrate (1.210 g, 11.97 mmol) was added slowly. The reaction was monitored by tic and quenched by pouring into ice and diluting with EtOAc. A solution of saturated sodium bicarbonate was added until solution was a neutral pH. Organics were washed with water and saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure to afford a yellow solid. Efforts to dissolve the solid in ethyl acetate resulted in a suspension that was let sit for several hours. Hexanes were added and the solids filtered to afford N-[2-methyl-4-(methyloxy)-5-nitrophenyl]acetamide (1.13 g, 5.04 mmol) as yellow fluffy solid. The filtrate was purified via SiO2 chromatography to afford N-[2-methyl-4-(methyloxy)-5-nitrophenyl]acetamide (1.02 g, 4.55 mmol) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.00-2.11 (m, 3 H) 2.29 (s, 3 H) 3.90 (s, 3 H) 7.24 (s, H) 7.99 (s, 1 H) 9.42 (s, 1 H)

reactant | N-[2-methyl-4-(methyloxy)phenyl]acetamide | 10.88 mmol, 1.95 g | CC1=C(C=CC(=C1)OC)NC(C)=O | C10H13NO2
reactant | Potassium nitrate | 11.97 mmol, 1.210 g | [N+](=O)([O-])[O-].[K+]
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-methyl-4-(methyloxy)-5-nitrophenyl]acetamide | 5.04 mmol, 1.13 g | CC1=C(C=C(C(=C1)OC)[N+](=O)[O-])NC(C)=O | C10H12N2O4
